data/mechanism_extracts/molecules-29-00973-v2/molecules-29-00973-v2.json
{"doi": "molecules-29-00973-v2", "journal": "molecules-29-00973-v2", "is_review": false, "rxn_class_summary": "Electrochemical radical 1,2-difluoroalkylation/cyclization of N-methacryloyl-2-arylbenzimidazoles (and 2-arylindoles) with sodium difluoroalkylsulfinates to give CF2Me-substituted benzimidazo/indolo[2,1-a]isoquinolinones.", "mechanism_family": ["radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of MeCF2SO2Na to a sulfonyl radical (which loses SO2 to give the MeCF2 radical) initiates the cascade; the anode also oxidizes the post-cyclization aryl/cyclohexadienyl radical B to aryl cation C. Cathode reduces protons to H2.", "key_intermediates": [{"name": "MeCF2SO2 sulfonyl radical (from anodic SET of sulfinate)", "smiles": "[O]S(=O)C(F)(F)C", "role": "transient"}, {"name": "MeCF2 difluoroalkyl radical (after SO2 extrusion)", "smiles": "[C](F)(F)C", "role": "reactive"}, {"name": "Carbon-centered radical A (after MeCF2 addition to acrylamide alkene)", "smiles": null, "role": "reactive"}, {"name": "Cyclohexadienyl/aryl radical B (after intramolecular cyclization onto arene)", "smiles": null, "role": "reactive"}, {"name": "Aryl cation C (after second anodic oxidation of B)", "smiles": null, "role": "transient"}, {"name": "BHT–CF2Me radical adduct", "smiles": null, "role": "off_pathway"}, {"name": "1,1-diphenylethylene–CF2Me radical adduct", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes MeCF2SO2– to its sulfonyl radical, which loses SO2 to give the MeCF2 radical; this adds to the acrylamide C=C to form C-radical A, which cyclizes intramolecularly onto the 2-aryl ring to give aryl radical B; B is oxidized at the anode to aryl cation C, which deprotonates (rearomatizes) to product 3. Cathodic reduction of H+ gives H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product formation fully suppressed; BHT–CF2Me adduct detected by HRMS, indicating a free MeCF2 radical."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Product yield dropped to 16%; DPE–CF2Me radical adduct detected by HRMS, supporting a radical pathway."}, {"name": "Substrates 1a and 2a (CV experiment)", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks at 1.47 V (1a) and 0.67 V (2a) vs Ag/AgNO3, indicating sulfinate 2a is more easily oxidized than 1a, consistent with anodic initiation at the sulfinate."}, {"name": "No electricity control", "smiles": null, "purpose": "other", "observation": "No product detected, confirming the reaction is electrochemically driven."}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "X-ray structures of 3m (CCDC 2303467) and 5i (CCDC 2307007) confirm product connectivity. Mechanism is proposed as a radical cyclization with terminal anodic oxidation/deprotonation (radical–cation crossover at the arene) rather than HAT-based rearomatization; cathode serves only for proton reduction. Scope tolerates halides, esters, nitriles, methoxy, naphthyl and thienyl arenes, and extends to cyclopropyl-CF2 sulfinate."}
